US08119806B2
Step H: (S)-((3R,3aR,6R,6aR)-6-((4-nitrophenoxy)carbonyloxy)hexahydrofuro[3,2-b]furan-3-yl)5,6-bis(nitrooxy)hexanoate
To a solution of (S)-((3R,3aR,6R,6aR)-6-hydroxyhexahydrofuro[3,2-b]furan-3-yl)5,6bis(nitrooxy)hexanoate (0.80 g, 2.18 mmol) and Et3N (0.66 g, 6.54 mmol) in THF (30 mL) was added 4-Nitrophenyl chloroformate (0.44 g, 2.18 mmol) as solid. After stirring at rt over night, the mixture was concentrated. The residue was diluted with EtOAc and washed with NaH2PO4 5%. The organic layer was dried over MgSO4 and concentrated. The residue was purified by flash chromatography (Biotage SP1; column SNAP 50; TLC method: n-hexane/ethyl acetate 1/1; Rf=0.38), affording the title product as a pale yellow oil. 1H-NMR (300 MHz, CDCl3); δ 8.32-8.29 (2H, m), 7.44-7.28 (2H, m), 5.33 (1H, m), 5.21-5.05 (2H, m), 4.89-4.65 (3H, m), 4.50 (1H, m), 4.20-3.95 (4H, m), 3.94-3.85 (1H, m), 2.50 (2H, m), 1.84 (4H, m).

reactant | (S)-((3R,3aR,6R,6aR)-6-hydroxyhexahydrofuro[3,2-b]furan-3-yl)5,6bis(nitrooxy)hexanoate | 2.18 mmol, 0.80 g | O[C@@H]1CO[C@H]2[C@@H]1OC[C@H]2OC(CCC[C@@H](CO[N+](=O)[O-])O[N+](=O)[O-])=O | C12H18N2O11
reactant | Et3N | 6.54 mmol, 0.66 g | CCN(CC)CC | C6H15N
reactant | 4-Nitrophenyl chloroformate | 2.18 mmol, 0.44 g | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | (S)-((3R,3aR,6R,6aR)-6-((4-nitrophenoxy)carbonyloxy)hexahydrofuro[3,2-b]furan-3-yl)5,6-bis(nitrooxy)hexanoate | [N+](=O)([O-])C1=CC=C(OC(=O)O[C@@H]2CO[C@H]3[C@@H]2OC[C@H]3OC(CCC[C@@H](CO[N+](=O)[O-])O[N+](=O)[O-])=O)C=C1 | C19H21N3O15
